US06133257
N-[3,5-Dimethoxy-4-(2-pyrrolidin-1-ylethoxy)phenyl]-9-methoxybenzo[h]-5,6-dihydroquinazolin-2-amine hydrochloride
1-[2-(4-nitro-2,6-dimethoxyphenoxy)ethyl]pyrrolidine was prepared from 4-nitro-2,6-dimethoxyphenol [R F Collins and M Davis, J. Chem. Soc. 1863, (1961)] (0.4 g, 2.39 mmol), 1-(2-chloroethyl)pyrrolidine (612 mg, 0.36 mmol) and caesium carbonate (2.3 g, 0.72 mmol) to give the desired product as a brown oil (232 mg). MS (ES+) 297 (MH+).

reactant | 4-nitro-2,6-dimethoxyphenol | 2.39 mmol, 0.4 g | [N+](=O)([O-])C1=CC(=C(C(=C1)OC)O)OC | C8H9NO5
reactant | 1-(2-chloroethyl)pyrrolidine | 0.36 mmol, 612 mg | ClCCN1CCCC1 | C6H12ClN
reactant | caesium carbonate | 0.72 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
product | 1-[2-(4-nitro-2,6-dimethoxyphenoxy)ethyl]pyrrolidine | [N+](=O)([O-])C1=CC(=C(OCCN2CCCC2)C(=C1)OC)OC | C14H20N2O5
